US08314087B2
1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-5-(thiophen-2-yl)pyridin-2(1H)-one:
A mixture of 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one (50 mg, 133 μmol), thiophene-2-boronic acid (34 mg, 267 μmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(II) (8 mg, 11 μmol), and Na2CO3 (2M, 200 μl, 400 μmol) in DME (0.5 mL) were heated to 85° C. for 1 h. The reaction mixture was partitioned between CH2Cl2 (10 mL) and 5% NaHCO3 (5 mL). The aqueous layer was further extracted with CH2Cl2 (5 mL) and the combined organics were dried with brine and MgSO4. The concentrated organic residue was purified on 4 g silica eluting with 0-2.5% MeOH/CH2Cl2. The product was isolated as an off white solid. MS (ESI pos. ion) m/z (MH+): 379. Calc'd exact mass for C21H18N2O3S: 378. 1H NMR (400 MHz, Chloroform-d) δ ppm 3.92 (s, 3H) 4.53 (s, 4H) 6.62-6.67 (m, 2H) 7.24-7.28 (m, 1H) 7.34 (d, J=2.54 Hz, 1H) 7.63 (dd, J=9.49, 2.64 Hz, 1H) 7.79 (d, J=2.54 Hz, 1H) 8.00 (d, J=9.19 Hz, 1H) 8.66 (d, J=5.28 Hz, 1H)

reactant | 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | 133 μmol, 50 mg | BrC=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C17H15BrN2O3
reactant | thiophene-2-boronic acid | 267 μmol, 34 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 400 μmol, 2M, 200 μl | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 0.5 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-5-(thiophen-2-yl)pyridin-2(1H)-one | COC1=CC=C2C(=CC=NC2=C1)OCCN1C(C=CC(=C1)C=1SC=CC1)=O | C21H18N2O3S
